US05318966
4.0 g (0.01525 mol) of ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate were dissolved in 250 ml of toluene, 4.05 ml (0.0305 mol) of 2-piperidinoethylamine and 0.13 g of p-toluenesulphonic acid monohydrate were added thereto and the mixture was boiled for 4 hours on a water separator. After concentration the residue was hydrogenated with 1.3 g of Raney-nickel in 500 ml of ethanol at 120° and 140 bar for 10 hours. The product was chromatographed over silica gel with CH2Cl2 /MeOH 49:1. There were obtained 4.45 g (89%) of oily rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-3-(2-piperidinoethyl)-2H-benzo[e]indol-2-one.

reactant | ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate | 0.01525 mol, 4.0 g | COC1=C2CCC(C(C2=CC=C1)CC(=O)OCC)=O | C15H18O4
reactant | 2-piperidinoethylamine | 0.0305 mol, 4.05 ml | N1(CCCCC1)CCN | C7H16N2
reactant | water | O | H2O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulphonic acid monohydrate | 0.13 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-3-(2-piperidinoethyl)-2H-benzo[e]indol-2-one | 4.45 g, 89% | COC1=CC=CC=2[C@H]3CC(N([C@H]3CCC21)CCN2CCCCC2)=O | C20H28N2O2
